US04022769
1β,2β-Methylene-4-androstene-3,17-dione, zinc powder, and acetic acid are refluxed for about one hour. Benzene is added, the suspension filtered and the filtrate taken to dryness under vacuum. The residue is chromatographed on silica gel and eluted with methylenechloride. Recrystallization from acetone-hexane yields 1β-methyl-4-androstene-3,17-dione.

reactant | 1β,2β-Methylene-4-androstene-3,17-dione | C1[C@@H]2[C@H]1C(C=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H26O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
solvent | Benzene | C1=CC=CC=C1 | C6H6
product | 1β-methyl-4-androstene-3,17-dione | C[C@@H]1CC(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=O | C20H28O2
